US05700762
A solution of 3-(4-chloro-2-nitrobenzoyl)-bicyclo[3,2,1]-octane-2,4-dione (2.54 mmol) and 2 drops of conc. sulfuric acid in 20 ml of methanol is heated under reflux for 48 hours. The reaction mixture is concentrated and the residue is taken up in ether. The ethereal solution is washed with aqueous sodium bicarbonate and with brine, dried and evaporated to dryness to give 2-methoxy-3-(4-chloro -2-nitrobenzoyl)bicyclo-[3,2,1]-octane-4-one.

reactant | 3-(4-chloro-2-nitrobenzoyl)-bicyclo[3,2,1]-octane-2,4-dione | 2.54 mmol | ClC1=CC(=C(C(=O)C2C(C3CCC(C2=O)C3)=O)C=C1)[N+](=O)[O-] | C15H12ClNO5
reactant | methanol | 20 ml | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 2-methoxy-3-(4-chloro -2-nitrobenzoyl)bicyclo-[3,2,1]-octane-4-one | COC1C2CCC(C(C1C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O)C2 | C16H16ClNO5
